US06399727B1
2.50 ml (14.15 mmol) of 1,1-diphenylethylene were added at 25° C. to a suspension of 1.78 g (5.58 mmol) of dibenzylbarium in 70 ml of ethylbenzene and 10 ml of tetrahydrofuran (THF). Stirring for 14 hours resulted in a deep red solution. The solution was filtered off from small amounts of insoluble constituents and then evaporated to dryness. Solvent-free bis(1,1,3-triphenylpropyl)barium was firstly obtained as a very viscous, red-violet oil and, after prolonged drying, as a tough solid. The conversion was virtually quantitative.

reactant | 1,1-diphenylethylene | 14.15 mmol, 2.50 ml | C1(=CC=CC=C1)C(=C)C1=CC=CC=C1 | C14H12
reactant | dibenzylbarium | 5.58 mmol, 1.78 g | C(C1=CC=CC=C1)[Ba]CC1=CC=CC=C1
solvent | ethylbenzene | 70 ml | C(C)C1=CC=CC=C1 | C8H10
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | bis(1,1,3-triphenylpropyl)barium | C1(=CC=CC=C1)C(CCC1=CC=CC=C1)(C1=CC=CC=C1)[Ba]C(CCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C21H19.Ba/c2*1-4-10-18(11-5-1)16-17-21(19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h2*1-15H,16-17H2;
